US05441949
A mixture of 2-amino-5-nitrobenzoic acid (4 g, 22 mM), glycerol (8 g), arsenic acid (80% in water) (20 g), and sulphuric acid (65%) (36 ml) was heated at reflux for 3.5 hours. After addition of water (100 ml), the pH was adjusted to 8 with concentrated ammonia and then to 3.5 with acetic acid. The resulting precipitate was filtered and dried to give 8-carboxy-6-nitroquinoline (4 g; 83%).

reactant | 2-amino-5-nitrobenzoic acid | 22 mM, 4 g | NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | arsenic acid | 20 g | [As](O)(O)(O)=O | AsH3O4
reactant | sulphuric acid | 36 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
reactant | glycerol | 8 g | OCC(O)CO | C3H8O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 8-carboxy-6-nitroquinoline | 4 g, 83% | C(=O)(O)C=1C=C(C=C2C=CC=NC12)[N+](=O)[O-] | C10H6N2O4
